US03956495
A mixture of 5 g of 2chloro-4-(1-adamantylamino)quinazoline, 5 ml of morpholine, and 10 ml of ethanol was refluxed for 16 hours. The reaction mixture was suspended in 100 ml of 6 N hydrochloric acid. The precipitate which resulted was collected by filtration and recrystallized twice from 95 percent ethanol, giving 3.5 g of 2-morpholino-4-(1-adamantylamino)quinazoline hydrochloride; m.p. 319°-321°. The following analytical data were obtained:

reactant | 2chloro-4-(1-adamantylamino)quinazoline | 5 g | ClC1=NC2=CC=CC=C2C(=N1)NC12CC3CC(CC(C1)C3)C2 | C18H20ClN3
reactant | morpholine | 5 ml | N1CCOCC1 | C4H9NO
reactant | ethanol | 10 ml | C(C)O | C2H6O
solvent | hydrochloric acid | 6 N, 100 ml | Cl | ClH
product | 2-morpholino-4-(1-adamantylamino)quinazoline hydrochloride | 3.5 g | Cl.O1CCN(CC1)C1=NC2=CC=CC=C2C(=N1)NC12CC3CC(CC(C1)C3)C2 | InChI=1S/C22H28N4O.ClH/c1-2-4-19-18(3-1)20(24-21(23-19)26-5-7-27-8-6-26)25-22-12-15-9-16(13-22)11-17(10-15)14-22;/h1-4,15-17H,5-14H2,(H,23,24,25);1H
